US08242143B2
2-{5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridin-2-yl}benzonitrile
2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine (1.0 mmol, 234 mg), 2-cyanophenylboronic acid (1.2 mmol, 176 mg), dichlorobis(triphenylphosphine)palladium(II) (0.05 mmol, 35 mg), and potassium carbonate (3.5 mmol, 500 mg) were added to deoxygenated DME:water (1:1, 5 mL) at room temperature. The reaction was heated for 5 min at 150° C. via microwave irradiation, then partitioned in a separatory funnel with EtOAc (100 mL) and water (30 mL). The organic layer was washed with one additional portion of water (20 mL) and the combined aqueous layers back extracted with EtOAc (50 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was chromatographed on SiO2, eluting with a 0% to 60% EtOAc gradient in hexanes, to afford the title compound as a white solid, which was dissolved in ether and precipitated as the hydrochloride salt with 1M HCl in ether. MS (ESI) 301.4 (M+H+).

reactant | 2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine | 1.0 mmol, 234 mg | ClC1=NC=C(C=C1)C#CC=1N=C(SC1)C | C11H7ClN2S
reactant | 2-cyanophenylboronic acid | 1.2 mmol, 176 mg | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | potassium carbonate | 3.5 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.05 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-{5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridin-2-yl}benzonitrile | CC=1SC=C(N1)C#CC=1C=CC(=NC1)C1=C(C#N)C=CC=C1 | C18H11N3S
